US07745641B2
In a similar manner to Step 1 of Reference Example 4, 5-formylindole (2.00 g, 13.8 mmol) was dissolved in acetonitrile (20 mL), and the solution was treated with di-tert-butyldicarbonate (3.49 mL, 15.2 mmol) and DMAP (17.0 mg, 0.139 mmol), then the mixture was treated with 4-piperidinemethanol (6.36 g, 55.2 mmol), acetic acid (15.8 mL, 276 mmol) and sodium triacetoxyborohydride (8.77 g, 41.4 mmol) to obtain 5-(4-hydroxymethylpiperidinomethyl)-1-(tert-butoxycarbonyl)indole (2.85 g, yield 60%).

reactant | 5-formylindole | 13.8 mmol, 2.00 g | C(=O)C=1C=C2C=CNC2=CC1 | C9H7NO
reactant | di-tert-butyldicarbonate | 15.2 mmol, 3.49 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-piperidinemethanol | 55.2 mmol, 6.36 g | N1CCC(CC1)CO | C6H13NO
reactant | acetic acid | 276 mmol, 15.8 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 41.4 mmol, 8.77 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
catalyst | DMAP | 0.139 mmol, 17.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-(4-hydroxymethylpiperidinomethyl)-1-(tert-butoxycarbonyl)indole | 2.85 g, yield 60% | OCC1CCN(CC1)CC=1C=C2C=CN(C2=CC1)C(=O)OC(C)(C)C | C20H28N2O3
